US05807846
2,4,6-Triisopropylbenzyl alcohol
A solution of 2,4,6-triisopropylbenzoyl chloride (24.96 g, 0.094 mol) in ethyl ether (150 mL) was added in portions over 1 hour to lithium aluminum hydride (3.70 g, 0.097 mol) in ethyl ether (300 mL) keeping the temperature between -15° C. and -30° C. The reaction mixture was allowed to warm to room temperature over about 1 hour. The reaction mixture was cooled to 0° C. and quenched by adding saturated aqueous sodium bisulfate solution. The layers were separated, the aqueous layer was back-extracted with ethyl acetate, the organic layers were combined and dried (magnesium sulfate), filtered, and concentrated to a white solid (21.50 g, 98% crude). An analytical sample was obtained by filtering 1.0 g through silica gel using hexanes, then 5% ethyl acetate in hexanes as eluant yielding 0.778 g of the product as a white solid.

reactant | 2,4,6-triisopropylbenzoyl chloride | 0.094 mol, 24.96 g | C(C)(C)C1=C(C(=O)Cl)C(=CC(=C1)C(C)C)C(C)C | C16H23ClO
reactant | lithium aluminum hydride | 0.097 mol, 3.70 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
product | 2,4,6-Triisopropylbenzyl alcohol | 0.778 g | C(C)(C)C1=C(CO)C(=CC(=C1)C(C)C)C(C)C | C16H26O
